US06903117B2
(2Z,4E)-5-(5,6-Dichloro-1H-indol-2-yl)-2-methoxy-N-(1,2,2,6,6-pentamethyl piperidin-4-yl)-2,4-pentadienamide.
A solution of (2Z,4E)-5-(5,6-dichloro-1H-indol-2-yl)-2-methoxy-2,4-pentadienoic acid (736 mg, 3.65 mmol), 4-amino-1,2,2,6,6-pentamethylpiperidine (620 mg, 3.65 mmol), 1-hydroxy-7-azabenzotriazole hydrate (474.5 mg, 3.65 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (693.5 mg, 3.65 mmol) in DMF (2 ml) was stirred at RT overnight. The solution was poured into brine (20 ml) and repeatedly extracted with EtOAc. The organic phase was washed with 5% aq. CaCO3, dried (MgSO4) and evaporated under vacuum. The residue was chromatographed on silica gel using ethyl acetate:methanol:aq. ammonia (32%) 90:10:2 as eluent mixture. The collected fractions produced the pure title compound (0.8, yield 73%) as yellow crystals, m.p.=212° C.

reactant | (2Z,4E)-5-(5,6-dichloro-1H-indol-2-yl)-2-methoxy-2,4-pentadienoic acid | 3.65 mmol, 736 mg | ClC=1C=C2C=C(NC2=CC1Cl)/C=C/C=C(/C(=O)O)\OC | C14H11Cl2NO3
reactant | 4-amino-1,2,2,6,6-pentamethylpiperidine | 3.65 mmol, 620 mg | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
reactant | 1-hydroxy-7-azabenzotriazole hydrate | 3.65 mmol, 474.5 mg | O.ON1N=NC2=C1N=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.65 mmol, 693.5 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | brine | 20 ml | [Cl-].[Na+].O
product | (2Z,4E)-5-(5,6-Dichloro-1H-indol-2-yl)-2-methoxy-N-(1,2,2,6,6-pentamethyl piperidin-4-yl)-2,4-pentadienamide | yield 73% | ClC=1C=C2C=C(NC2=CC1Cl)/C=C/C=C(/C(=O)NC1CC(N(C(C1)(C)C)C)(C)C)\OC | C24H31Cl2N3O2
